US06265411B1
A mixture of 4-hydroxy-6-methoxy-7-(3-(pyrrolidin-1-yl)propoxy)quinazoline (1.7 g, 5 mmol) and thionyl chloride (25 ml) containing DMF (0.2 ml) was heated at reflux for 3 hours. Excess thionyl chloride was removed by evaporation and by azeotroping with toluene (×2). The residue was suspended in ether and 10% aqueous solution of sodiurn hydrogen carbonate was added to the mixture. The organic layer was separated, dried (MgSO4) and the solvent removed by evaporation to give 4-chloro-6-methoxy-7-(3-(pyrrolidin-1-yl)propoxy)quinazoline (1.94 g, quantitative).

reactant | 4-hydroxy-6-methoxy-7-(3-(pyrrolidin-1-yl)propoxy)quinazoline | 5 mmol, 1.7 g | OC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCCC1 | C16H21N3O3
reactant | thionyl chloride | 25 ml | S(=O)(Cl)Cl | Cl2OS
solvent | DMF | 0.2 ml | CN(C)C=O | C3H7NO
product | 4-chloro-6-methoxy-7-(3-(pyrrolidin-1-yl)propoxy)quinazoline | 1.94 g | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCCC1 | C16H20ClN3O2
